US08222245B2
7-Bromo-3,4-dihydro-1,4-benzoxazepin-5(2H)-one
A solution of methyl 5-bromo-2-{[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)ethyl]oxy}benzoate (Preparation 70) (8.92 g, 23.8 mmmol) in DCM (18 ml) was treated with TFA (7 ml) and stirred for 5 hrs. Additional (2 ml) TFA was added and the reaction left overnight. The solvent was evaporated, re-evaporated with toluene (5×) and dissolved in toluene (50 ml). The resulting residue was treated with triethylamine (4 equiv) and heated at 100° C. overnight then evaporated. The residue was purified by flash chromatography twice eluting with 50% EtOAc/hexane then 40-45% EtOAc/hexane. The fractions were evaporated to give the title compound (3.4 g) as a white solid. MS (ES): C9H881BrNO2 requires 243; found 244 [M+H]+.

reactant | methyl 5-bromo-2-{[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)ethyl]oxy}benzoate | 8.92 g | BrC=1C=CC(=C(C(=O)OC)C1)OCCNC(=O)OC(C)(C)C | C15H20BrNO5
reactant | TFA | 7 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylamine | 4 equiv | C(C)N(CC)CC | C6H15N
solvent | DCM | 18 ml | C(Cl)Cl | CH2Cl2
product | 7-Bromo-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 3.4 g | BrC=1C=CC2=C(C(NCCO2)=O)C1 | C9H8BrNO2
